US06838464B2
4-Anilino-5-bromo-2-chloropyrimidine
A solution of 5-bromo-2,4-dichloropyrimidine (6.84 g, 30.0 mmol), aniline (2.79 g, 30.0 mmol) and N,N-diisopropylethylamine (3.87 g, 30.0 mmol) in n-butanol (75 ml) was heated under reflux for 4 hours. Volatile material was removed by evaporation and the residue was dissolved in DCM (100 ml). The solution was washed with water (3×100 ml) and saturated brine (100 ml) and dried. Volatile material was removed by evaporation and the residue was purified by column chromatography, eluting with 15% ethyl acetate/isohexane, to give the product as an oil which solidified on standing (5.12 g, 60%). NMR: 7.1 (t, 1H), 7.4 (t, 2H),7.55 (d,2H), 8.4 (s,1H), 9.2 (br s, 1H); MS (MH+): 284, 286, 288.

reactant | 5-bromo-2,4-dichloropyrimidine | 30.0 mmol, 6.84 g | BrC=1C(=NC(=NC1)Cl)Cl | C4HBrCl2N2
reactant | aniline | 30.0 mmol, 2.79 g | NC1=CC=CC=C1 | C6H7N
reactant | N,N-diisopropylethylamine | 30.0 mmol, 3.87 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | n-butanol | 75 ml | C(CCC)O | C4H10O
product | 4-Anilino-5-bromo-2-chloropyrimidine | N(C1=CC=CC=C1)C1=NC(=NC=C1Br)Cl | C10H7BrClN3
